US07247645B2
Synthesis of 3,3-diphenylpropyl 5-(4-benzyl-[1,4]diazepane-1-carbonyl)-4-(3-carboxyphenyl)-2,6-dimethyl-1,4-dihydropyridine-3-carboxylate
2.05 g (3.99 mmol) of 2-cyanoethyl 3-[2-(4-benzyl-[1,4]diazepane-1-carbonyl)-3-oxobutenyl]benzoate and 1.18 g (3.99 mmol) of (3,3-diphenylpropyl)3-aminocrotonate were stirred in 40 ml of 2-propanol at 80° C. overnight. After the concentration under reduced pressure, the product was purified by the silica gel chromatography (chloroform/methanol=100/1) to obtain the title compound.

reactant | 2-cyanoethyl 3-[2-(4-benzyl-[1,4]diazepane-1-carbonyl)-3-oxobutenyl]benzoate | 3.99 mmol, 2.05 g | C(C1=CC=CC=C1)N1CCN(CCC1)C(=O)C(=CC=1C=C(C(=O)OCCC#N)C=CC1)C(C)=O | C27H29N3O4
reactant | (3,3-diphenylpropyl)3-aminocrotonate | 3.99 mmol, 1.18 g | C1(=CC=CC=C1)C(CCOC(\C=C(\C)/N)=O)C1=CC=CC=C1 | C19H21NO2
solvent | 2-propanol | 40 ml | CC(C)O | C3H8O
product | 3,3-diphenylpropyl 5-(4-benzyl-[1,4]diazepane-1-carbonyl)-4-(3-carboxyphenyl)-2,6-dimethyl-1,4-dihydropyridine-3-carboxylate | C(C1=CC=CC=C1)N1CCN(CCC1)C(=O)C=1C(C(=C(NC1C)C)C(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)C(=O)O | C43H45N3O5
